US03935271
1.4 g (0.015 mol) of solid potassium hydroxide are dissolved in 30 cc of 50 % aqueous methanol. 4.1 g (0.015 mol) of 3-carbethoxy-9-isopropoxy-2-nonanone are added to this solution and the mixture is heated to boiling temperature. After 1 hour at reflux the reaction mixture is cooled to 50°, neutralized with 50 % sulphuric acid, cooled to room temperature after 10 minutes, and 50 cc of water added. The product is extracted from the heterogeneous mixture with ether, the ether extract is washed with saturated salt solution, dried with sodium sulphate and evaporated. The residue is chromatographed on silica gel with hexane/ethyl acetate 9:1. Pure 9-isopropoxy-2-nonanone is obtained as a colourless oil.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 3-carbethoxy-9-isopropoxy-2-nonanone | 0.015 mol, 4.1 g | C(=O)(OCC)C(C(C)=O)CCCCCCOC(C)C | C15H28O4
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | water | 50 cc | O | H2O
solvent | methanol | 30 cc | CO | CH4O
product | 9-isopropoxy-2-nonanone | C(C)(C)OCCCCCCCC(C)=O | C12H24O2
